US09084794B2
b) Methyl 2-(4-bromo-2-fluorophenyl)acetate
A solution of a crude (72% purity) mixture of 2-(4-bromo-2-fluorophenyl)acetonitrile and 2-(4-bromo-2-fluorophenyl)acetamide (1.4:1 ratio, 2.0 g) in methanol (6 mL) was treated dropwise with conc. sulfuric acid (4 mL, 75 mmol). The vessel was then sealed, heated in an oil bath at 80° C., and stirred for three days. At this point the reaction was cooled to room temperature and was diluted slowly with water (50 mL). The mixture was then extracted twice with dichloromethane. The organic layers were combined and washed with saturated aq sodium bicarbonate and brine. The organic solution was dried over sodium sulfate, filtered and concentrated in vacuo to afford the crude title compound as a clear oil. The crude oil was used directly in the next reaction. 1H NMR (400 MHz, DMSO-d6) δ ppm 3.63 (s, 3 H) 3.74 (s, 2 H) 7.34 (t, J=8.08 Hz, 1 H) 7.38-7.43 (m, 1 H) 7.55 (dd, J=9.60, 2.02 Hz, 1 H).

reactant | 2-(4-bromo-2-fluorophenyl)acetonitrile | BrC1=CC(=C(C=C1)CC#N)F | C8H5BrFN
reactant | 2-(4-bromo-2-fluorophenyl)acetamide | 2.0 g | BrC1=CC(=C(C=C1)CC(=O)N)F | C8H7BrFNO
reactant | sulfuric acid | 75 mmol, 4 mL | S(O)(O)(=O)=O | H2O4S
solvent | methanol | 6 mL | CO | CH4O
solvent | water | 50 mL | O | H2O
product | Methyl 2-(4-bromo-2-fluorophenyl)acetate | BrC1=CC(=C(C=C1)CC(=O)OC)F | C9H8BrFO2
